Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
vancomycin
 
Attending: ___.
 
Chief Complaint:
Tunneled line erythema  
 
Major Surgical or Invasive Procedure:
Removal of tunneled catheter ___
 
History of Present Illness:
___ with hx ovarian cysts, severe chronic pain, POTS, PUD, 
substance abuse presenting with port site erythema.

She reports that she is living with her mother in ___. She 
has a ___ to change the dressing on her tunneled line site. 
Tunneled line was placed in ___ and she uses this for 
daily infusion of IVFs for her POTS. She uses between 1.5L and 
3L/day and she self regulates bolus v. infusion based on how 
dehydrated she is feeling. Her tegaderm was last changed on 
___ by ___ using the same tape that she always uses. She 
has frequent skin reactions and has very sensitive skin. She 
notes at times it looks like "an acid burn. This is not uncommon 
for her. She noted increased redness and itch at the site of the 
tegaderm over her right tunneled line over the past several 
days. She then felt a sensation of tightening in her neck and 
felt the swelling was spreading. In the setting of having DVTs 
in the past she was concerned for a clot so presented to the ED. 
 

In the ED, initial vitals: 98.6, 107, 151/97, 18, 100% RA  
- Labs notable for: WBC 11.5 (56.8% PMNs), lactate 1.3
- Imaging notable for: Right upper extremity US negative DVT 
- Pt given: home medications
- ___ was consulted and removed port line and sent tip for 
culture 

- Vitals prior to transfer: 98.8, 65, 110/71, 18, 97% RA 

On arrival to the floor, pt reports the above history with the 
addition of the following. En route to the ED she started 
feeling flu like symptoms. She always runs a low grade 
temperature at home but denies any acute worsening in fevers or 
chills. She denies sick contact, no nausea, vomiting, cough, SOB 
or chest pain. She endorses numbness in right hand thumb, first 
and second fingers which is chronic for her in the setting of 
cervical nerve root impingement. She is worried there is 
compression of her arm more proximally but she is relieved to 
hear there was no DVT identified on US in the ED. She has ___ 
watery bowel movements/day in the setting of her subtotal 
colectomy but denies any increase in volume, change in 
consistency or color of the stools. She reports that she 
received 3L fluids in the ED and feels well hydrated. 

ROS: Per HPI.  
 
Past Medical History:
 1. Tension headaches.  
 2. Slow transient constipation.  
 3. Depression.  
 4. Fatigue.  
 5. History of bilateral ovarian cysts.  
 6. History of drug and alcohol abuse.  
 7. Anxiety.  
 8. Depression.  
 9. History of gastritis and peptic ulcer disease.  
 10. Rheumatologic manifestations: Musculoskeletal pain,faint 
transient malar rash. Lab work up negative for ___, dsDNA, Ro, 
La, Sm, RNP, normal urinalysis, normal CBC, BUN and creatinine, 
and LFTs.  
 Rheumatologist has ruled out SLE.  
 11. Inflammatory arthropathy - polyarticular joint pain since  
 ___, negative work up.  
 12. Chronic fatigue syndrome  
 13. Vitamin D deficiency  
 14. Hypothyroidism  
 15. Hx of DVT - at the age of ___ (told it was when she was  
 playing soccer?)  
 16. GERD  
 17. Neuropathy  
 
 
Social History:
___
Family History:
 Mother with no cancer  
 Father- unsure  
 2 brothers and sister are alive and well  
 PGM with breast cancer, DM, CVD, HTN  
 MGM - breast cancer, DM, HLD, HTN  
 No history of blood clots or bleeding disorders  
 
Physical Exam:
ADMISSION EXAM
=============
Vitals: 98.6, 118 / 76, 64 18 97 Ra   
General: Alert, oriented, no acute distress, fidgeting in bed 
moving around frequently trying to find comfortable position for 
her arm   
HEENT: Sclerae anicteric, MMM, oropharynx clear, nose piercing  
Neck: supple, JVP not elevated, no LAD, no warmth, redness, 
swelling or tenderness to palpation   
Chest: 6x6cm erythematous plaque, well demarcated borders, warm 
to touch with gauze in place over site of port removal. 
Lungs: CTAB no wheezes, rales, rhonchi  
CV: RRR, Nl S1, S2, No MRG  
Abdomen: soft, hyperactive bowel sounds, well healed laproscoic 
surgical scars, NT/ND.   
Ext: multiple tatooes, WWP, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: ___ intact, strength ___ bilateral upper and lower 
extremities, decreased sensation in right hand thumb, first and 
second fingers. Remainder of sensory examination within normal 
limits.  

DISCHARGE EXAM
==============
Vitals: 98.4, 111/77, 81 18 96 Ra   
General: Alert, oriented, no acute distress
HEENT: Sclerae anicteric, MMM, oropharynx clear, nose piercing  
Neck: supple, no LAD, no warmth, redness, swelling or tenderness 
to palpation   
Chest: 6x6cm erythematous plaque, well demarcated borders, 
xerotic skin with minimal desquamation overall improving. no 
longer warm to touch. 
Lungs: CTAB no wheezes, rales, rhonchi  
CV: RRR, Nl S1, S2, No MRG  
Abdomen: soft, +BS, well healed laparoscopic surgical scars, 
NT/ND.   
Ext: multiple tattoos, WWP, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: ___ intact, strength ___ bilateral upper and lower 
extremities, decreased sensation in right hand thumb, first and 
second fingers. Remainder of sensory examination within normal 
limits.  
 
Pertinent Results:
ADMISSION LABS
=============

___ 11:20PM   ___ ___
___ 11:20PM   PLT ___
___ 11:20PM   ___ 
___ NUC ___ IM ___ 
___
___ 11:20PM   ___ 
___
___ 11:20PM   HCG-<5
___ 11:20PM   ___
___ 11:20PM   ___ this
___ 11:20PM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 11:26PM   ___

DISCHARGE LABS
=============

___ 06:00AM BLOOD ___ 
___ Plt ___
___ 06:00AM BLOOD Plt ___
___ 06:00AM BLOOD ___ 
___
___ 06:00AM BLOOD ___

MICRO 
=====
Tunneled line, culture: Pending 

STUDIES
=======
Right upper extremity ultrasound
No evidence of deep vein thrombosis in the right upper 
extremity. Cephalic
vein is not visualized.

 
Brief Hospital Course:
SUMMARY 
========
___ with PMHx of ovarian cysts, severe chronic pain, POTS, PUD, 
substance abuse who presented with one day of increased erythema 
around right chest tunneled line site. ___ evaluated the site and 
removed the tunneled line and sent the tip for culture. The 
overlying skin changes were more consistent with 
contact/irritant dermatitis. She was not given antibiotics. She 
did not have a fever and mild leukocytosis on admission resolved 
by the time of discharge. Local wound care with lotion and 
desonide was used with relief. She had a midline placed for 
continuation of home IV fluids. She will discuss with her PCP as 
an outpatient about replacing the tunneled catheter line. 

ACTIVE ISSUES 
============

# Contact Dermatitis, corresponding to area of interest, 6x6cm 
erythematous plaque right chest wall. She presented to care with 
concern for local skin infection and involvement of the tunneled 
line site. Tunneled line was pulled in the ED prior to admission 
to the floor but upon evaluation the surrounding skin appeared 
consistent with an irritant, contact dermatitis.  Most likely in 
setting of reaction to tegaderm used to cover tunneled line at 
home. There were no clinical signs of cellulitis or systemic 
infection. Erythema and puritis improved with sarna and 
lidocaine lotion and desonide cream. Wound care was consulted 
who recommended Dermatology follow up for allergy/patch testing 
in the setting of frequent skin eruptions.  

# Leukocytosis. Initially >11 without neutrophilic predominance. 
This self resolved without antibiotics.  She remained afebrile. 
Nonetheless her tunneled line was removed ___ in the ED given 
concern for possible infection. The catheter tip was sent for 
culture which was pending at the time of discharge.

# Chronic dehydration 
# h/o POTS. Patient had tunneled line placed in ___ 
in order for home administration of IVF. Given continued need 
for ___ IVF supplemental/day at home, she had midline placed 
in her left arm on ___. Plan for outpatient coordination of 
replacing tunneled line when right chest irritant dermatitis 
resolves via PCPs office.  

# Recurrent DVT (RLE ___ after ankle surgery, and ___ assoc'd 
DVT x2 in ___. Followed by Dr. ___ in ___ ___. 
Maintained on 1.5mg/kg daily (90mg rounded to 80mg vial size) 
Lovenox once daily for treatment.  

CHRONIC ISSUES 
=============
# Anxiety/Depression. Continued Venlafaxine 150mg BID.  
# Severe chronic pain. Follow by ___ pain center, last seen in 
___. Continued home regimen of Tizanidine 
# H/o substance abuse. Per records. Not discussed with patient 
directly. Has outpatient follow up.
# Subtotal colectomy. BM ___ times/day, at current baseline. IVF 
repletion provided daily prn. No electrolyte abnormalities 
suggestive of dehydration. 
# ___ disc buldge with neural foraminal stenosis 
# Right hand paresthesia. She presented with chronic right hand 
paresthesia, chronic, likely in setting of cervical nerve root 
compression or more proximal nerve root compression in forearm. 
Negative right upper extremity ultrasound for DVT reassuring in 
ED. Strength in tact and strong right radial pulse also 
reassuring. 

TRANSITIONAL ISSUES 
===================
PCP ___ clinical follow up of right chest wall dermatitis at 
follow up to ensure improvement/resolution 
- Continue Desonide for ___ days 
- Midline placed for temporary use at home for IVF and IV 
Vitamin administration, with coordination of replacing tunneled 
catheter to be coordinated by PCP when indicated. 
- Wound care recs: Recommend using Duoderm thin as a platform 
around line sites so occlusive dressing is not directly on 
patient's skin.
- Wound culture tip from tunneled catheter line pending at the 
time of discharge to be followed by PCP. 
- Per inpatient wound care team, recommend Dermatology follow up 
as outpatient for possible patch testing. Appointment made 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Venlafaxine 150 mg PO BID 
2. TraZODone 100 mg PO QHS:PRN insomnia 
3. Tizanidine ___ mg PO QHS:PRN pain  
4. Prochlorperazine 5 mg PO Q6H:PRN nausea 
5. Ondansetron ODT 4 mg PO Q8H:PRN nausea 
6. LORazepam 0.5 mg PO DAILY:PRN anxiety  
7. Enoxaparin Sodium 80 mg SC DAILY  
8. Cholestyramine 4 gm PO TID:PRN diarrhea 
9. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
10. DiphenhydrAMINE ___ mg PO QHS:PRN insomnia, pain  
11. Psyllium Wafer 1 WAF PO BID 
12. Loratadine 10 mg PO DAILY 
13. Melatonin (with B6) ___ (vit B6)) ___ mg 
oral DAILY 
14. Chlorpheniramine Maleate 4 mg PO Frequency is Unknown 
15. LOPERamide ___ mg PO TID:PRN diarrhea  
16. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Desonide 0.05% Cream 1 Appl TP DAILY PRN  rash  
Continue for ___ days then stop. If rash gets worse, stop 
RX *desonide 0.05 % Apply small amout to affected area on right 
chest wall once daily Refills:*0 
2.  Enoxaparin Sodium 80 mg SC Q24H 
Start: Today - ___, First Dose: Next Routine Administration 
Time  
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
4.  Chlorpheniramine Maleate 4 mg PO Frequency is Unknown  
5.  Cholestyramine 4 gm PO TID:PRN diarrhea  
6.  DiphenhydrAMINE ___ mg PO QHS:PRN insomnia, pain   
7.  LOPERamide ___ mg PO TID:PRN diarrhea   
8.  Loratadine 10 mg PO DAILY  
9.  LORazepam 0.5 mg PO DAILY:PRN anxiety   
10.  Melatonin (with B6) ___ (vit B6)) ___ mg 
oral DAILY  
11.  Multivitamins 1 TAB PO DAILY  
12.  Ondansetron ODT 4 mg PO Q8H:PRN nausea  
13.  Prochlorperazine 5 mg PO Q6H:PRN nausea  
14.  Psyllium Wafer 1 WAF PO BID  
15.  Tizanidine ___ mg PO QHS:PRN pain   
16.  TraZODone 100 mg PO QHS:PRN insomnia  
17.  Venlafaxine 150 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis 
Irritant, contact dermatitis 

Secondary Diagnosis 
Chronic dehydration 
POTS
Right hand parasthesia 
Recurrent DVT on Lovenox 
Anxiety
Depression 
Severe chronic pain
Subtotal colectomy 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___, 

It was a pleasure taking care of you during your stay at ___. 
Briefly, you were admitted given concern for infection at your 
tunneled line site. The interventional radiology team removed 
your tunneled line. Your skin did not show signs on infection, 
rather more like an allergic reaction or irritation to the 
tegaderm. You should continue using lotion and the topical 
steroid desonide for several more days. You had a midline placed 
for IV fluids and you will have follow up with your PCP next 
week to discuss replacing your tunneled central line. 

We wish you the best, 

Your ___ Treatment Team 
 
Followup Instructions:
___